* source P1_PSPICE
R_R11         N55728 N55404  1k TC=0,0 
Q_Q1         N55758 N55850 N56156 BC817-25 
V_V2         N55404 0 15v
R_R20         0 N55912  2k TC=0,0 
R_R27         0 N56396  4.7 TC=0,0 
R_R28         0 N56150  47k TC=0,0 
R_R24         N55564 N55404  15k TC=0,0 
C_C8         0 N56008  10u  TC=0,0 
C_C6         N55758 N55614  1u  TC=0,0 
R_R19         N56150 N55682  15k TC=0,0 
C_C14         N55610 N55404  4.7u  TC=0,0 
C_C4         N56100 N55850  1u  TC=0,0 
C_C7         N55912 N55978  1u  TC=0,0 
R_R29         N55522 N55404  9.1k TC=0,0 
R_R26         N55758 N55404  82 TC=0,0 
R_R2         N55758 N55404  82 TC=0,0 
R_R16         0 N55978  1k TC=0,0 
R_R8         N56324 N55850  1.8k TC=0,0 
R_R21         N55682 N55522  9.1k TC=0,0 
R_R9         N55614 N55404  47k TC=0,0 
R_R10         0 N55614  6.8k TC=0,0 
R_R22         N55610 N55404  510 TC=0,0 
C_C13         N55682 N55912  11n  TC=0,0 
Q_Q2         N55728 N55614 N56008 BC817-25 
R_R1         0 N56156  150 TC=0,0 
Q_Q4         N55912 N55682 N55610 BC807-25 
R_R7         N55850 N55404  47k TC=0,0 
C_C11         N55728 N55682  1u  TC=0,0 
R_R13         N56396 N56008  82 TC=0,0 
V_V1         N56100 0  AC 50mv
+SIN 0 50mv 5k 0 0 0
V_V3         N56190 0 0
R_R25         0 N56324  10 TC=0,0 
D_D2         N55850 N56190 D1N4148_1 
D_D3         N55564 0 SMLS14BET 
